US04406690
A mixture of 5-(4-chlorobenzyloxy)-2-nitropyridine (0.5 g), Na2S (0.25 g) and methanol (12 ml) is heated to reflux for about 3 hours. Then, a few drops of water is added and refluxing continued about 15 hours. After cooling, the reaction is diluted with methanol, filtered through celite and stripped. The concentrate is taken up in CHCl3, washed with water, dried and stripped giving 2-amino-5-(4-chlorobenzyloxy)pyridine.

reactant | 5-(4-chlorobenzyloxy)-2-nitropyridine | 0.5 g | ClC1=CC=C(COC=2C=CC(=NC2)[N+](=O)[O-])C=C1 | C12H9ClN2O3
catalyst | water | a few drops | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 12 ml | CO | CH4O
product | 2-amino-5-(4-chlorobenzyloxy)pyridine | NC1=NC=C(C=C1)OCC1=CC=C(C=C1)Cl | C12H11ClN2O
